US07723369B2
[3-(2-tert-Butyl-1,1,3-trioxo-2,3-dihydro-1H-isothiazol-5-yl)-phenyl]-carbamic acid tert-butylester (77 mg, 0.20 mmol) was treated with 1,4-dioxane-HCl following general procedure V to give 5-(3-Amino-phenyl)-2-tert-butyl-isothiazol-3-one-1,1-dioxide.

reactant | [3-(2-tert-Butyl-1,1,3-trioxo-2,3-dihydro-1H-isothiazol-5-yl)-phenyl]-carbamic acid tert-butylester | 0.20 mmol, 77 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)C1=CC(N(S1(=O)=O)C(C)(C)C)=O)=O | C18H24N2O5S
reactant | 1,4-dioxane-HCl | Cl.O1CCOCC1
product | 5-(3-Amino-phenyl)-2-tert-butyl-isothiazol-3-one-1,1-dioxide | NC=1C=C(C=CC1)C1=CC(N(S1(=O)=O)C(C)(C)C)=O | C13H16N2O3S
